US04477448
(a) 2-(Methoxymethoxyimino)acetoacetic acid methyl ester
To a suspension of 4.13 g of 80% NaH in 50 ml of dry tetrahydrofuran are added successively at 0° 18.14 g of 2-hydroxyiminoacetoacetic acid methyl ester and 9 g of chloromethylmethylether. After 30 minutes at room temperature, the mixture is divided between 200 ml of ethyl acetate and aqueous buffer (pH 5.5). The contents of the ethyl acetate phase are bulb distilled to obtain the heading compound, m.p. 115°-120°/0.1 Torr.

reactant | NaH | 4.13 g | [H-].[Na+]
reactant | 2-hydroxyiminoacetoacetic acid methyl ester | 18.14 g | COC(C(C(=O)C)=NO)=O | C5H7NO4
reactant | chloromethylmethylether | 9 g | ClCOC | C2H5ClO
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(Methoxymethoxyimino)acetoacetic acid methyl ester | COC(C(C(=O)C)=NOCOC)=O | C7H11NO5
